US06331538B1
1-Benzyl-3-benzyloxy-6-fluoro-7-pyrrolidinyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example X-2, the reaction of 1-benzyl-3-benzyloxy-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example P-2, 142 mg, 0.345 mmol) with pyrrolidine (0.070 mL, 0.828 mmol) in dichloromethane (3 mL) afforded 121 mg of the title compound as a solid, mp 171-172° C.

reactant | 1-benzyl-3-benzyloxy-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.345 mmol, 142 mg | C(C1=CC=CC=C1)N1C(N(C(C2=C1N=C(C(=C2)F)Cl)=O)OCC2=CC=CC=C2)=O | C21H15ClFN3O3
reactant | pyrrolidine | 0.828 mmol, 0.070 mL | N1CCCC1 | C4H9N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-Benzyl-3-benzyloxy-6-fluoro-7-pyrrolidinyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 121 mg | C(C1=CC=CC=C1)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCCC2)=O)OCC2=CC=CC=C2)=O | C25H23FN4O3
